US08426604B2
2-[Bis-(2-methoxy-ethyl)-amino]-5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-thiazol-4-one was prepared from 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazolidin-4-one and Bis-(2-methoxy-ethyl)-amine following General Procedure C.

reactant | 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)SCC)=O)C=C1)C(F)(F)F | C21H17ClF3N3OS2
reactant | Bis-(2-methoxy-ethyl)-amine | COCCNCCOC | C6H15NO2
product | 2-[Bis-(2-methoxy-ethyl)-amino]-5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-thiazol-4-one | COCCN(C=1SC(C(N1)=O)=CC=1C=C2C=NN(C2=CC1)CC1=C(C=C(C=C1)Cl)C(F)(F)F)CCOC | C25H24ClF3N4O3S
